US04031221
By following the manipulative procedure described in Example 1(a), 21.0 g of 1-benzyl-4-piperidinol and 24.0 g of o-fluorotoluene produces a yellow oil fraction which boils at 161°-163° C., 0.09 mm. This oil solidifies slowly upon standing and is recrystallized from petroleum ether (b.p. 30°-60°) to give white crystals of 1-benzyl-4-(o-tolyloxy) piperidine.

reactant | 1-benzyl-4-piperidinol | 21.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | o-fluorotoluene | 24.0 g | FC1=C(C=CC=C1)C | C7H7F
product | 1-benzyl-4-(o-tolyloxy) piperidine | C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C=CC=C1)C | C19H23NO
